US06077954
4-(p-Toluenesulfonylmethyl)-2,6-dihydroxymethyl-s-triazine
2,4,6-Trihydroxymethyl-s-triazine (1 eq.) is dissolved in an excess of pyridine. p-Toluenesulfonylchloride (0.9 eq.) in CH2Cl2 is added and the reaction mixture is stirred overnight. The solvent volume is reduced to a slurry to which water and dichloromethane are added and the resulting mixture is extracted with CH2Cl2. The combined CH2Cl2 layers are dried (MgSO4) and concentrated to an oil. The oil is purified by silica gel flash column chromatography to give the title compound.

reactant | 2,4,6-Trihydroxymethyl-s-triazine | 1 eq. | OCC1=NC(=NC(=N1)CO)CO | C6H9N3O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | p-Toluenesulfonylchloride | 0.9 eq. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(p-Toluenesulfonylmethyl)-2,6-dihydroxymethyl-s-triazine | C1(=CC=C(C=C1)S(=O)(=O)CC1=NC(=NC(=N1)CO)CO)C | C13H15N3O4S
